US06613743B2
(3S)tetrahydro-3-furanyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl) sulfonyl]amino-2-hydroxypropyl)carbamate.
tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate (0.09 mmol, 50 mg) was dissolved in a 1:1 solution of CH2Cl2/TFA (1 mL) and allowed to stir at room temperature for 1 hour. The solution was then extracted into ethyl acetate, washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated to a clear oil. The resulting oil was then dissolved in THF (1 mL) and combined with 2,5-dioxo-1-pyrrolidinyl [(3S)tetrahydro-3-furanyl]carbonate (0.05 mmol, 13 mg) DIEA (0.08 mmol, 14 gL) and allowed to stir for 15 hours. The reaction was neutralized by the addition of acetic acid and partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium bicarbonate and brine, and dried over magnesium sulfate. The crude product was concentrated to a white solid and purified by silica gel chromatography (1:1 hexanes/ethyl acetate), providing 19 mg (37%) of a white solid. H1-NMR (CDCl3): δ7.70 (2H,d), 7.29-7.17 (6H,m), 6.97 (2H,d), 5.1 (1H,s), 4.76 (1H,d), 4.17 (1H,m), 3.86 (3H,s), 3.87-3.70 (6H,m), 3.68-3.60 (1H,m), 3.06 (1H,bs), 2.89 (2H,m), 2.02 (3H,m), 1.89 (1H,m), 1.71 (2H,m),1.28-1.08 (6H,m); MS (ESI): M+Na=585.

reactant | tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC(C)(C)C)=O | C28H40N2O7S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 TFA | 1 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | (3S)tetrahydro-3-furanyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl) sulfonyl]amino-2-hydroxypropyl)carbamate | 19 mg, 37% | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(O[C@@H]1COCC1)=O | C28H38N2O8S
